US05439925
(a) Benzyl 2-hydroxy-4 -(5,6,7,8-tetrahydro -5,5,8,8-tetramethyl-2-naphthylacetoxy)benzoate
In a manner similar to Example 1(d), by reaction of 2.44 g (10 mmol) of benzyl 2,4-dihydroxybenzoate with 2.6 g (10 mmol) of 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl -2-naphthylacetyl chloride, 3.9 g (83% ) of the expected ester are obtained in the form of a colorless oil.

reactant | benzyl 2,4-dihydroxybenzoate | 10 mmol, 2.44 g | OC1=C(C(=O)OCC2=CC=CC=C2)C=CC(=C1)O | C14H12O4
reactant | 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl -2-naphthylacetyl chloride | 10 mmol, 2.6 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)CC(=O)Cl)C | C16H21ClO
product | Benzyl 2-hydroxy-4 -(5,6,7,8-tetrahydro -5,5,8,8-tetramethyl-2-naphthylacetoxy)benzoate | OC1=C(C(=O)OCC2=CC=CC=C2)C=CC(=C1)OC(CC1=CC=2C(CCC(C2C=C1)(C)C)(C)C)=O | C30H32O5
